US05340898
Preparation of (4-octyloxyphenyl)phenyliodonium tetrakis(pentafluorophenyl)borate
5 g (or 0.0086 mol) of (4-octyloxyphenyl)-phenyliodonium tosylate were dissolved in 350 ml of acetone in a 500 ml Erlenmeyer flask equipped with a magnetic stirrer bar. While light was excluded, 3.4 g (or 0.0103 mol) of lithium tetrakis(pentafluorophenyl)borate in solution in 50 ml of acetone were added. The mixture was stirred for 48 hours and was then filtered to remove the lithium p-toluenesulfonate formed. The acetone was evaporated under reduced pressure and 7.98 g (or a yield of 92%) of (4-octyloxyphenyl)phenyliodonium tetrakis(pentafluorophenyl)borate were recovered.

reactant | (4-octyloxyphenyl)-phenyliodonium tosylate | S(=O)(=O)([O-])C1=CC=C(C)C=C1.C(CCCCCCC)OC1=CC=C(C=C1)[I+]C1=CC=CC=C1
reactant | lithium tetrakis(pentafluorophenyl)borate | FC1=C(C(=C(C(=C1[B-](C1=C(C(=C(C(=C1F)F)F)F)F)(C1=C(C(=C(C(=C1F)F)F)F)F)C1=C(C(=C(C(=C1F)F)F)F)F)F)F)F)F.[Li+]
solvent | acetone | 350 ml | CC(=O)C | C3H6O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | (4-octyloxyphenyl)phenyliodonium tetrakis(pentafluorophenyl)borate | yield of 92% | FC1=C(C(=C(C(=C1[B-](C1=C(C(=C(C(=C1F)F)F)F)F)(C1=C(C(=C(C(=C1F)F)F)F)F)C1=C(C(=C(C(=C1F)F)F)F)F)F)F)F)F.C(CCCCCCC)OC1=CC=C(C=C1)[I+]C1=CC=CC=C1 | InChI=1S/C24BF20.C20H26IO/c26-5-1(6(27)14(35)21(42)13(5)34)25(2-7(28)15(36)22(43)16(37)8(2)29,3-9(30)17(38)23(44)18(39)10(3)31)4-11(32)19(40)24(45)20(41)12(4)33;1-2-3-4-5-6-10-17-22-20-15-13-19(14-16-20)21-18-11-8-7-9-12-18/h;7-9,11-16H,2-6,10,17H2,1H3/q-1;+1
